US08389553B2
1,1-dimethylethyl[2-{[(4-{[(pyridin-3-ylacetyl)amino]methyl}phenyl)carbonyl]amino}-4-(2-thienyl)phenyl]carbamate was stirred in 10 mL of TFA/DCM (1:1 v/v) for 2 hours. Then 20 mL of saturated NaHCO3 was added to the reaction mixture and the resulted solution was stirred for 20 minutes, 50 mL of DCM was added to the reaction mixture and the organic layer was separated and the aqueous phase was extracted with DCM (50 mL×2), the combined organic layers were washed with brine, dried over Na2SO4, the solvent was removed and the residue was washed with 10 mL of anhydrous ethyl ether, filtered to give N-[2-amino-5-(2-thienyl)phenyl]-4-{[(pyridin-3-ylacetyl)amino]methyl}benzamide as a beige solid. 1H NMR (MeOD, 600 MHz) δ 8.49 (s, 1H), 8.43 (d, J=5.4 Hz, 1H), 7.95 (d, J=8.4 Hz, 2H), 7.82 (d, J=8.0 Hz, 1H), 7.40 (m, 5H), 7.21 (m, 2H), 7.02 (m, 1H), 6.90 (d, J=8.4 Hz, 1H), 4.48 (s, 2H), 3.64 (s, 2H). MS: cal'd 443 (MH+), exp 443 (MH+).

reactant | 1,1-dimethylethyl[2-{[(4-{[(pyridin-3-ylacetyl)amino]methyl}phenyl)carbonyl]amino}-4-(2-thienyl)phenyl]carbamate | CC(C)(C)N(C([O-])=O)C1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)CNC(CC=1C=NC=CC1)=O
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | TFA DCM | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-[2-amino-5-(2-thienyl)phenyl]-4-{[(pyridin-3-ylacetyl)amino]methyl}benzamide | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)CNC(CC=1C=NC=CC1)=O)=O | C25H22N4O2S
